US05686424
Using the procedure described in Example 5, treatment of a solution of L-proline-L-isoleucine benzylamide (50 mg, 0.16 mmol), with triethylamine (110 uL, 0.79 mmol, 5.0 eq), and 2-bromo-4'-nitroacetophenone (48 mg, 0.20 mmol, 1.2 eq) in THF (5 mL), provided crude material that was additionally purified by preparative TLC to provide 8.8 mg (12%) of L-isoleucine, N-[1-(2-(4-nitrophenyl)-2-oxoethyl)-L-prolyl] benzylamide.

reactant | L-proline L-isoleucine benzylamide | 0.16 mmol, 50 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | triethylamine | 0.79 mmol, 110 uL, 5.0 eq | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-4'-nitroacetophenone | 0.20 mmol, 48 mg, 1.2 eq | BrCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | L-isoleucine, N-[1-(2-(4-nitrophenyl)-2-oxoethyl)-L-prolyl] benzylamide | 8.8 mg, 12% | [N+](=O)([O-])C1=CC=C(C=C1)C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C26H32N4O5
